US07435744B2
2-(4-Benzyloxy-piperidin-1-yl)-2-oxo-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-acetamide (45 70002186)
The title compound is prepared from N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-oxalamic acid and 4-benzyloxy-piperidine [Tetrahedron Lett., 36 3465. (1995)] according to the method described in Example 1c. Melting Point: 143-146° C. (diethylether)

reactant | N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-oxalamic acid | O=C1COC2=C(N1)C=CC(=C2)NC(C(=O)O)=O | C10H8N2O5
reactant | 4-benzyloxy-piperidine | C(C1=CC=CC=C1)OC1CCNCC1 | C12H17NO
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyloxy-piperidin-1-yl)-2-oxo-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-acetamide | C(C1=CC=CC=C1)OC1CCN(CC1)C(C(=O)NC1=CC2=C(NC(CO2)=O)C=C1)=O | C22H23N3O5
